US06869962B2
2,2,2-Trifluoro-1-(6-methoxy-2-methyl-1H-indol-3-yl)-ethanone
To a solution of 6-methoxy-2-methyl-1H-indole (1 g, 6.2 mmole) (prepared according to JACS 1998, 110, 2242) in 25 ml of THF was added TFAA (1.56 g, 7.44 mmole) with ice bath cooling. The mixture was warmed to room temperature and stirred for two hours and concentrated in vacuo. The residue was further purified by column chromatography (eluting with CH2Cl2) to give 1.34 g product as pale yellow solid (82% yield). 1H NMR (300 MHz, CDCl3) δ7.90 (1H, d, J=8.9 Hz), 6.87 (1H, dd, J=2.2, 8.9 Hz), 6.80 (1H, d, J=2.2 Hz), 3.82 (3H, s), 2.69 (3H, s).

reactant | 6-methoxy-2-methyl-1H-indole | 6.2 mmole, 1 g | COC1=CC=C2C=C(NC2=C1)C | C10H11NO
reactant | TFAA | 7.44 mmole, 1.56 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-1-(6-methoxy-2-methyl-1H-indol-3-yl)-ethanone | 1.34 g, 82% yield | FC(C(=O)C1=C(NC2=CC(=CC=C12)OC)C)(F)F | C12H10F3NO2
